US07691882B2
1-butyl-4-((E)-2-nitro-vinyl)-benzene
A mixture of 4-n-butylbenzaldehyde (5 g, 30.8 mmol), nitromethane (3.31 mL, 61.6 mmol), ammonium acetate (3.56 g, 46.2 mmol) and acetic acid (50 mL) was stirred for 5 hours at 100° C. The mixture was cooled to room temperature, concentrated under a reduced pressure, and diluted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure to obtain the title compound (5.7 g). This compound was used in the subsequent reaction without being purified.

reactant | 4-n-butylbenzaldehyde | 30.8 mmol, 5 g | C(CCC)C1=CC=C(C=O)C=C1 | C11H14O
reactant | nitromethane | 61.6 mmol, 3.31 mL | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 46.2 mmol, 3.56 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 1-butyl-4-((E)-2-nitro-vinyl)-benzene | 5.7 g | C(CCC)C1=CC=C(C=C1)\C=C\[N+](=O)[O-] | C12H15NO2
